US04092311
Ethyl 3-methyl-3-[5-methyl-6-(m-nitrophenyl)-3-pyridazinyl]-carbazate
A mixture of 1.6 g. of 5-methyl-3-(m-nitrophenyl)-6-(1-methylhydrazino)pyridazine, 1.03 g. of diisopropylethylamine and 40 ml. of dioxane in a 100 ml. round bottom flask is warmed slightly until solution takes place. A 0.75 g. portion of ethyl chloroformate is pipetted into the solution for one hour and then the dioxane is removed on a rotating evaporator. The product is obtained after recrystallization from acetone-petroleum ether, m.p. 142°-144° C.

reactant | 5-methyl-3-(m-nitrophenyl)-6-(1-methylhydrazino)pyridazine | CC=1C=C(N=NC1N(N)C)C1=CC(=CC=C1)[N+](=O)[O-] | C12H13N5O2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl 3-methyl-3-[5-methyl-6-(m-nitrophenyl)-3-pyridazinyl]-carbazate | CN(NC(=O)OCC)C=1N=NC(=C(C1)C)C1=CC(=CC=C1)[N+](=O)[O-] | C15H17N5O4
